US06673797B1
(3) Preparation of 1-(4-Fluorobenzyl)-5-methanesulfonyl-2-([1,3,4]oxadiazol-2-yl)indole
To a solution of the crude product (200 mg) of 5-methansulfonyl-2-([1,3,4]oxadiazol-2-yl)-1H-indole in N,N-dimethylformamide (8 ml), 60% sodium hydride (40 mg) was added at 0° C. under nitrogen atmosphere and the mixture was stirred for 5 minutes, followed by addition of 4-fluorobenzyl bromide (215 mg), and the mixture was stirred for 3 hours. To the reaction solution was then added water and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (hexane:ethyl acetate=1:2) to obtain 67 mg of the desired product as a white powder.

reactant | 5-methansulfonyl-2-([1,3,4]oxadiazol-2-yl)-1H-indole | CS(=O)(=O)C=1C=C2C=C(NC2=CC1)C=1OC=NN1 | C11H9N3O3S
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 215 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(4-Fluorobenzyl)-5-methanesulfonyl-2-([1,3,4]oxadiazol-2-yl)indole | 67 mg | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C=2OC=NN2)C=C1 | C18H14FN3O3S
